US05424280
Preparation of 1-Diazo-3-{o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}-2-propanone
A mixture of potassium hydroxide in methanol (20.0 mL of a 4M solution ) is heated to 42° C. and treated dropwise with a mixture of N-methyl-N-nitroso-p-toluenesulfonamide (4 g, 18.7 mmol) in ether (40 mL). The diazomethane is distilled over, condensed with a dry ice/acetone condenser and collected. The diazomethane/ether solution is stirred in an ice-bath, treated dropwise with a solution of {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetyl chloride (1.09 g, 2.32 mmol) in tetrahydrofuran, stirred for 30 minutes and concentrated in vacuo to give the title product as a yellow oil which is identified by NMR spectral analyses.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N-methyl-N-nitroso-p-toluenesulfonamide | 18.7 mmol, 4 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)N=O | C8H10N2O3S
reactant | {o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetyl chloride | 2.32 mmol, 1.09 g | ClC1=C(OC=2C=CC(=C(OC3=C(OCC(=O)Cl)C=CC=C3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C20H12Cl3NO6
solvent | methanol | CO | CH4O
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Diazo-3-{o-[5-(2,4-dichlorophenoxy)-2-nitrophenoxy]phenoxy}-2-propanone | [N+](=[N-])=CC(COC1=C(C=CC=C1)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-])=O | C21H13Cl2N3O6
